US07256294B2
b. Preparation of 2-isopropyl-1H-benzoimidazole-4-carboxylic acid
A slurry of 2,3-diaminobenzoic acid methyl ester (21.5 g, 0.13 mol) and isobutyric acid (36.2 mL, 0.39 mol) in aqueous hydrochloric acid (4M, 210 mL) was stirred under reflux for 24 h to afford a homogenous solution. The solution was cooled to 10° C. and the pH raised to 3.5 using aqueous sodium hydroxide solution (4M, approx. 210 mL), while maintaining the temperature below 30° C. The reaction mixture was stirred at room temperature for 2 h, cooled to 10° C., and the resultant precipitate filtered off. The solid cake was transferred to a beaker and acetonitrile (300 mL) was added. The slurry was stirred at room temperature for 1 h then and filtered to afford a grey solid. The solid was dried under vacuum to afford the title intermediate (23 g, 0.11 mol, 87%). (m/z): [M+H]+ calcd for C11H12N2O2 calcd. 205.09; found 205.3. 1H NMR (300 MHz, DMSO-d6): δ (ppm) 1.27 (d, 6H), 3.39 (m, 1H), 7.29 (t, 1H), 7.78 (m, 2H).

reactant | 2,3-diaminobenzoic acid methyl ester | 0.13 mol, 21.5 g | COC(C1=C(C(=CC=C1)N)N)=O | C8H10N2O2
reactant | isobutyric acid | 0.39 mol, 36.2 mL | C(C(C)C)(=O)O | C4H8O2
reactant | sodium hydroxide | 4M, approx. 210 mL | [OH-].[Na+]
solvent | hydrochloric acid | 4M, 210 mL | Cl | ClH
product | 2-isopropyl-1H-benzoimidazole-4-carboxylic acid | 0.11 mol, 23 g, 87% | C(C)(C)C1=NC2=C(N1)C=CC=C2C(=O)O | C11H12N2O2
